US07141561B2
4-Cyclopentyloxyphenylamine
Sodium hydride (50% in oil; 4.8 g) was added in portions to a solution of 4-aminophenol (10.9 g) in dimethylformamide (150 ml). After 20 minutes, cyclopentyl bromide (14.9 g) was added dropwise. After 2 hours at room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried and concentrated. The residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 3:1). The product with the molecular weight of 177.25 (C11H15NO); MS (ESI): 178 ([M+H]+), was obtained in this way.

reactant | Sodium hydride | 4.8 g | [H-].[Na+]
reactant | 4-aminophenol | 10.9 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cyclopentyl bromide | 14.9 g | C1(CCCC1)Br | C5H9Br
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Cyclopentyloxyphenylamine | C1(CCCC1)OC1=CC=C(C=C1)N | C11H15NO
